US08835648B2
{1-[4-Chloro-3-(3H-imidazo[4,5-c]pyridin-2-yl)-phenyl]-piperidin-4-yl}-piperidin-1-yl-methanone
Method C—Step f A mixture of 1-[4-Cloro-3-(3H-imidazo[4,5-c]pyridin-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride (0.09 g, 0.25 mmol), HATU (0.10 g, 0.26 mmol), triethylamine (TEA) (0.08 mL, 0.55 mmol), piperidine (0.03 g, 0.31 mmol) and dichloromethane (2 mL) was heated at 35° C. overnight. Reaction was cooled to room temperature, washed with ammonium chloride solution (3 mL) and the crude was purified by SCX (eluent: NH3 2N in MeOH) and flash chromatography (eluent: AcOEt:MeOH, 9:1), to obtain 0.04 g of the title compound (37%).

reactant | 1-[4-Cloro-3-(3H-imidazo[4,5-c]pyridin-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride | 0.25 mmol, 0.09 g | Cl.ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)O)C1=NC2=C(C=NC=C2)N1
reactant | HATU | 0.26 mmol, 0.10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.55 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine | 0.31 mmol, 0.03 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | {1-[4-Chloro-3-(3H-imidazo[4,5-c]pyridin-2-yl)-phenyl]-piperidin-4-yl}-piperidin-1-yl-methanone | 0.04 g, 37% | ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)N1CCCCC1)C1=NC2=C(C=NC=C2)N1 | C23H26ClN5O
